US07157487B2
In ethanol (5 ml), 1-isoquinolinecarbaldehyde (252 mg, 1.60 mmol) and methyl 4-amino-3-hydroxyphenylacetate (349 mg, 1.93 mmol) were stirred at room temperature for 12 hours. Iodobenzene diacetate (619 mg, 1.92 mmol) was added and the reaction mixture was stirred further at room temperature for 15 minutes. The reaction mixture was distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column, whereby from n-hexane/ethyl acetate (4:1 to 3:1, v/v) eluate fractions, methyl (2-(1-isoquinolinyl)-6-benzoxazolyl)acetate (166 mg, 33%) was obtained as a yellow amorphous substance.

reactant | 1-isoquinolinecarbaldehyde | 1.60 mmol, 252 mg | C1(=NC=CC2=CC=CC=C12)C=O | C10H7NO
reactant | methyl 4-amino-3-hydroxyphenylacetate | 1.93 mmol, 349 mg | NC1=C(C=C(C=C1)CC(=O)OC)O | C9H11NO3
reactant | Iodobenzene diacetate | 1.92 mmol, 619 mg | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | methyl (2-(1-isoquinolinyl)-6-benzoxazolyl)acetate | 166 mg, 33% | C1(=NC=CC2=CC=CC=C12)C=1OC2=C(N1)C=CC(=C2)CC(=O)OC | C19H14N2O3
